US06329381B1
6-Amino-9-(4-fluorobenzyl)-8-hydroxy-2-(2-methoxyethoxy)purine
6-Amino-9-(4-fluorobenzyl)-8-methoxy-2-(2-methoxyethoxy)purine (49 mg, 0.14 mmol) in concentrated hydrochloric acid (20 ml) was stirred for 12 hours. The reaction mixture was evaporated in vacuo to dryness and then 28% aqueous ammonia was added thereto. The resulting crystals were filtered to give the subject compound (36 mg, yield 77%).

reactant | 6-Amino-9-(4-fluorobenzyl)-8-methoxy-2-(2-methoxyethoxy)purine | 0.14 mmol, 49 mg | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C=C1)F)OC | C16H18FN5O3
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 6-Amino-9-(4-fluorobenzyl)-8-hydroxy-2-(2-methoxyethoxy)purine | 36 mg, yield 77% | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=C(C=C1)F)O | C15H16FN5O3
